US04018802
8-Methylthio-12-hydroxyheptadecanoic acid (Ex. 1) (6.7 g., 0.0202 mole) is dissolved in a solution of sodium hydroxide (1.0 g., 0.025 mole) in water (80 ml.). Sodium metaperiodate (4.7 g., 0.022 mole) is added and the resulting mixture is stirred at room temperature overnight (17 hours). The solids present are then filtered off and the filtrate is acidified with dilute hydrochloric acid to liberate the oily acid product. The oil is taken up in ether, washed with water and dried over sodium sulfate. The ether is evaporated in vacuo to leave the crude 8-methylsulfinyl-12-hydroxy-heptadecanoic acid as a viscous yellowish oil weighing 5.8 g. Purification is effected by chromatography on a column containing 125 g. of silica gel using 4% methanol in chloroform as eluant. There is obtained 2.2 g. of pure 8-methylsulfinyl-12-hydroxyheptadecanoic acid, a colorless viscous oil with Rf 0.14 on silica gel thin layer chromatograms with chloroform-methanol-acetic acid 96:3:1 as eluant; pmr (CDCl3) δ0.90 (3H, t); 2.50 (3H, s CH3SO); 3.64 (1H, m HCO).

reactant | 8-Methylthio-12-hydroxyheptadecanoic acid | 0.0202 mole, 6.7 g | CSC(CCCCCCC(=O)O)CCCC(CCCCC)O | C18H36O3S
reactant | sodium hydroxide | 0.025 mole, 1.0 g | [OH-].[Na+]
reactant | Sodium metaperiodate | 0.022 mole, 4.7 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | water | 80 ml | O | H2O
product | 8-methylsulfinyl-12-hydroxy-heptadecanoic acid | CS(=O)C(CCCCCCC(=O)O)CCCC(CCCCC)O | C18H36O4S
